US07550471B2
Preparation of 5-methyl-6-cyclopentyl-7-(4-methyl-piperidin-1-yl)-[1,2,4]triazolo[1,5-a]pyrimidine [I-1]
With stirring, a solution of 4-methylpiperidine (1.5 mmol) and triethylamine (1.5 mmol) in 10 ml of dichloromethane was added to a solution of 5-methyl-6-cyclopentyl-7-chloro[1,2,4]triazolo[1,5-a]pyrimidine (1.5 mmol, Ex. 3) in 20 ml of dichloromethane. The reaction mixture was stirred at 20-25° C. for about 16 hours and then washed with a 5% strength solution of HCl. The organic phase was separated off and dried. Following distillative removal of the solvent and chromatography on silica gel, this gave 0.26 g of the title compound of m.p. 145° C.

reactant | 4-methylpiperidine | 1.5 mmol | CC1CCNCC1 | C6H13N
reactant | triethylamine | 1.5 mmol | C(C)N(CC)CC | C6H15N
reactant | 5-methyl-6-cyclopentyl-7-chloro[1,2,4]triazolo[1,5-a]pyrimidine | 1.5 mmol | CC1=NC=2N(C(=C1C1CCCC1)Cl)N=CN2 | C11H13ClN4
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 5-methyl-6-cyclopentyl-7-(4-methyl-piperidin-1-yl)-[1,2,4]triazolo[1,5-a]pyrimidine | CC1=NC=2N(C(=C1C1CCCC1)N1CCC(CC1)C)N=CN2 | C17H25N5
